US06005000
Mitsunoble coupling of 0.17 g (1.2 mmol) of 1-naphthol with 0.34 g (1.0 mmol) of 3,4-dibenzyloxy-5-(2-hydroxyethyl)-2(5H)-furanone and subsequent benzyl group deprotection by hydrogenation were performed in a similar manner as described in the synthesis of 3,4-dihydroxy-5-[2-(4-phenoxy)phenoxyethyl]-2(5H)-furanone to provide 75 mg (26% yield) of 3,4-dihydroxy-5-[2-(1-naphthoxy)ethyl]-2(5H)-furanone as colorless cubes: mp 163-164° C. (ether/hexanes) 1H NMR (acetone-d6) δ 8.38-8.25 (m, 1H), 7.92-7.79 (m, 1H), 7.60-7.34 (m, 4H), 7.05-6.93 (m, 1H), 5.11 (dd, J=5.3, 8.7 Hz, 1H), 4.39 (dd, J=2.6, 4.7 Hz, 2H), 2.75-2.52 (m, 1H), 2.25-2.05 (m, 1H). 13C NMR (acetone-d6) δ 169.62, 154.92, 153.61, 135.13, 127.83, 126.78, 126.50, 125.92, 125.05, 122.41, 120.66, 118.53, 105.28, 72.85, 63.93, 32.58. Anal Calcd for C16H14O5 : C, 67.11; H, 4.89. Found: C, 66.70; H, 4.88.

reactant | 1-naphthol | 1.2 mmol, 0.17 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | 3,4-dibenzyloxy-5-(2-hydroxyethyl)-2(5H)-furanone | 1.0 mmol, 0.34 g | C(C1=CC=CC=C1)OC=1C(OC(C1OCC1=CC=CC=C1)CCO)=O | C20H20O5
product | 3,4-dihydroxy-5-[2-(1-naphthoxy)ethyl]-2(5H)-furanone | 75 mg, 26% yield | OC=1C(OC(C1O)CCOC1=CC=CC2=CC=CC=C12)=O | C16H14O5
